datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:16])=[C:15]([H:17])[H:18],4.6024
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[S:5][H:13])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[S:5][C:14]([H:15])([H:16])[H:17])[H:6].[H:13],67.7808
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14](=[C:15]([H:17])[H:18])[H:16],10.8784
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8],135.925608
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])[H:28])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])[H:28])[H:27])[H:8])([H:6])[H:7],68.6594
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][H:16])([H:14])[H:15])([H:13])[O:17][O:18])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],0.0
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:13])([H:4])([H:5])[H:6].[S:9]=[C:10]([S:11])[H:12],38.0744
[C:0](#[C:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:7].[H:11]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([C:5]#[C:6][H:10])([H:8])[H:9])[H:11])[H:7],3.93296
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8])[H:7]>>[C:0](#[C:1][C:2]1([H:8])[C:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:7],70.7514
[O:0].[c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]12>>[O:0][c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]2[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]12,0.0
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:16])([H:14])[H:15])[O:6][O:7])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:16])([H:14])[H:15])[O:6][O:7][H:8])([H:9])[H:10],144.348
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:21]([C:20]([H:23])([H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:10])([H:8])[H:9],7.7404
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16],17.1544
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([S:1])([H:4])([H:5])[H:6].[S:2]([S:3][H:7])[C:8]([H:9])([H:10])[H:11],21.7568
[C:0]([C:1]([C:2]([O:3][O:4])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([O:3][O:4][H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7],165.937
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:15])[H:21])([H:13])[H:14])([H:10])([H:11])[H:12],78.006496
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]1[C:6]([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]([H:15])=[C:5]2[C:6]1([H:16])[C:7]([H:17])([H:18])[C:8]([H:19])=[C:9]2[H:20],101.2528
[C:0]([N:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5],195.823752
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:9]([H:10])([H:11])[H:12],19.6648
